US09120749B2
N1-[6-Bromo-3-(methylsulfonyl)quinolin-4-yl]-N4,N4-diethylcyclohexane-1,4-diamine
Following general procedure B, 6-bromo-4-chloro-3-(methylsulfonyl)quinoline (161 mg, 0.500 mmol) was reacted with N1,N1-diethylcyclohexane-1,4-diamine (170 mg, 1.00 mmol) to afford the desired product (197 mg, 87%) as a white solid: ESI MS m/z 454 [C20H28BrN3O2S+H]+.

reactant | 6-bromo-4-chloro-3-(methylsulfonyl)quinoline | 0.500 mmol, 161 mg | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)Cl | C10H7BrClNO2S
reactant | N1,N1-diethylcyclohexane-1,4-diamine | 1.00 mmol, 170 mg | C(C)N(C1CCC(CC1)N)CC | C10H22N2
product | N1-[6-Bromo-3-(methylsulfonyl)quinolin-4-yl]-N4,N4-diethylcyclohexane-1,4-diamine | 197 mg, 87% | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)NC1CCC(CC1)N(CC)CC | C20H28BrN3O2S
